US06888032B2
Naphthalene-1-carbonitrile
An oven dried screw cap test tube was charged with NaCN (127 mg, 2.592 mmol), dried KI (72 mg, 0.434 mmol, 20 mol %) and CuI (41 mg, 0.215 mmol, 10 mol %), evacuated and backfilled with argon three times. 1-Bromonaphthalene (300 μL, 2.157 mmol), N,N′-dimethylethylenediamine (230 μL, 2.16 mmol) and anhydrous toluene (1.4 mL) were added under argon. The tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 24 h. The resulting yellow suspension was cooled to room temperature, 2 mL of ethyl acetate, 1 mL of ammonium hydroxide (30%) and 1 mL of water were added. The mixture was stirred at 25° C. for 10 min, then the organic layer was separated and the aqueous layer was extracted three times with ethyl acetate (3×2 mL). The combined organic layers were washed with 5 mL of water and dried over MgSO4. The solvent was removed at reduced pressure. Purification of the residue by flash chromatography on silica gel (2×15 cm; hexane/ethyl acetate 10:1) provided 232 mg (70% yield) of the title compound as a colorless oil.

reactant | NaCN | 2.592 mmol, 127 mg | [C-]#N.[Na+]
reactant | 1-Bromonaphthalene | 2.157 mmol, 300 μL | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | N,N′-dimethylethylenediamine | 2.16 mmol, 230 μL | CNCCNC | C4H12N2
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
catalyst | CuI | 0.215 mmol, 41 mg | [Cu]I
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1.4 mL | C1(=CC=CC=C1)C | C7H8
product | Naphthalene-1-carbonitrile | 232 mg, 70% yield | C1(=CC=CC2=CC=CC=C12)C#N | C11H7N
